US07855294B2
In a nitrogen atmosphere, 75 mL of 1.50 M n-butyllithium/hexane solution was dropwise added to tetrahydrofuran (100 mL) solution of 12 mL of 2-bromotoluene at −78° C., and stirred at −78° C. for 30 minutes. Tetrahydrofuran (50 mL) solution of 18.5 mL of 1-benzyl-4-piperidone was dropwise added to the reaction liquid, and stirred at room temperature for 4 hours. Aqueous saturated ammonium chloride solution and aqueous saturated sodium hydrogencarbonate solution were added in that order to the reaction liquid, extracted with ether, and the ether layer was washed with saturated saline water and dried with anhydrous sodium sulfate. The solvent was evaporated off under reduced pressure to obtain crude 1-benzyl-4-o-tolylpiperidin-4-ol as a yellow oily substance.

reactant | n-butyllithium hexane | 1.50 M, 75 mL | C(CCC)[Li].CCCCCC
reactant | 2-bromotoluene | 12 mL | BrC1=C(C=CC=C1)C | C7H7Br
reactant | 1-benzyl-4-piperidone | 18.5 mL | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | Tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 1-benzyl-4-o-tolylpiperidin-4-ol | C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=C(C=CC=C1)C | C19H23NO
